US05344953
2-Chloro-4-fluorophenol (733 g, 5.0 mol) and methylene chloride (2.5 liters) were put in a 5-liter three-neck flask as equipped with a stirrer, and 4N sodium hydroxide aqueous solution (1350 ml) was added thereto and stirred with cooling. To the resulting solution was introduced phosgene as generated by decomposing trichloromethyl chloroformate (148 ml, 243 g, 1.23 mol) on an active charcoal (3.8 g) at a temperature of 40° to 50° C. After introduction of phosgene, the reaction solution was further stirred overnight at room temperature. After the reaction, the organic layer was separated, and the aqueous layer was extracted with methylene chloride (500 ml×2). The organic layers were combined, washed with 1N sodium hydroxide aqueous solution (1000 ml) and water, and thereafter dried with anhydrous magnesium sulfate. The drying agent was removed, and the solvent was removed by distillation under reduced pressure to obtain a white solid of bis (2-chloro-4-fluorophenyl)carbonate (801 g, 5.0 mol). Yield: 100%.

reactant | 2-Chloro-4-fluorophenol | 5.0 mol, 733 g | ClC1=C(C=CC(=C1)F)O | C6H4ClFO
reactant | sodium hydroxide | 4N, 1350 ml | [OH-].[Na+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | trichloromethyl chloroformate | 1.23 mol, 148 ml, 243 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
catalyst | charcoal | 3.8 g | C | CH4
solvent | methylene chloride | 2.5 liters | C(Cl)Cl | CH2Cl2
product | bis (2-chloro-4-fluorophenyl)carbonate | 5.0 mol, 801 g, Yield: 100% | ClC1=C(C=CC(=C1)F)OC(OC1=C(C=C(C=C1)F)Cl)=O | C13H6Cl2F2O3
